US05405926
4,4'-Dimethoxybenzil (10 g), 90 ml glacial acetic acid and 160 ml 48% HBr were heated at reflux for 4 hours. The reaction mixture was poured into ice and the product collected by filtration. Dissolution of the solid into 10% aqueous sodium hydroxide, extraction with diethyl ether and acidification of the aqueous layer gave 4,4'-dihydroxybenzil which was recrystallized from 75% ethanol. Yield 7.5 g (84%). 1H NMR (acetone-d6) δ9.53 (s,2H, OH), 7.81, 6.98 (m, 8H, aromatic).

reactant | 4,4'-Dimethoxybenzil | 10 g | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
reactant | HBr | 160 ml | Br | BrH
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 4,4'-dihydroxybenzil | OC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)O | C14H10O4
